US06953790B2
Step C. 2-Oxo-1-(1-benzylpiperidin-4-yl)-2,3-dihydro-1H-imidazo[4,5-b]pyrazine
3-[(1-Benzylpiperidin-4-yl)amino]pyrazine-2-carbohydrazide (3.0 g, 9.2 mmol) was dissolved in 1N HCl (20 mL) and water (40 mL), and cooled to 0° C. To this was added aqueous sodium nitrite (0.8 g, 11.6 mmol) in water (5 mL). After 0.5 h sodium bicarbonate was added and the basic solution extracted with chloroform (5×50 mL), which was dried over magnesium sulfate. The crude acyl azide was dissolved in methoxyethanol (20 mL) and heated at 180° C. for 3 h. The progress of the reaction was monitored by thin layer chromatography (10% methanol in chloroform). The reaction was cooled and concentrated, and the crude product purified by preparative thin layer chromatography (silica gel, 75:25 tetrahydrofuran:hexane) to give the title compound (1.7 g). MS 310 (M+1).

reactant | 3-[(1-Benzylpiperidin-4-yl)amino]pyrazine-2-carbohydrazide | 9.2 mmol, 3.0 g | C(C1=CC=CC=C1)N1CCC(CC1)NC=1C(=NC=CN1)C(=O)NN | C17H22N6O
reactant | sodium nitrite | 11.6 mmol, 0.8 g | N(=O)[O-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | HCl | 1N, 20 mL | Cl | ClH
solvent | water | 40 mL | O | H2O
solvent | water | 5 mL | O | H2O
product | 2-Oxo-1-(1-benzylpiperidin-4-yl)-2,3-dihydro-1H-imidazo[4,5-b]pyrazine | 1.7 g | O=C1NC=2C(=NC=CN2)N1C1CCN(CC1)CC1=CC=CC=C1 | C17H19N5O
